US05319098
To a dry 250 mL 3-necked flask were added L-proline (27 g., 0.235 moles, 1.0 eq.) and 100 mL of 6N sodium hydroxide. The solution (pH=14) was cooled to below 10° C. in an ice bath. A solution of dichloropropionylchloride (51.7 g., 0.32 moles, 1.37 eq.) in 40 mL of methylene chloride then was added over 60 minutes keeping the solution temperature below 10° C. (pH=11 after addition). The remaining 2,2-dichloropropionylchloride was rinsed in with an additional 20 mL of methylene chloride and the reaction mixture then warmed to at least 22° C. and stirred for 60 minutes, then the reaction mixture were transferred to a 1 L flask with an additional 200 mL of water as a rinse. The methylene chloride was removed by evaporation and the pH adjusted to 2. Upon cooling to 0° C. for 40 minutes, the solid which forms was collected by filtration using cold water as a rinse to yield N-(2,2-dichloropropionyl)proline which was dried under vacuum (0.1 Torr) for 15 hours to give 44.3 g. (78% yield) which can be further purified through recrystallization from ethyl acetate or ethyl acetate:hexane. m.p. 61°-62° C.

reactant | L-proline | 0.235 moles, 27 g, 1.0 eq. | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 6N, 100 mL | [OH-].[Na+]
reactant | dichloropropionylchloride | 0.32 moles, 51.7 g, 1.37 eq. | ClC(CC(=O)Cl)Cl | C3H3Cl3O
reactant | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | N-(2,2-dichloropropionyl)proline | 78% yield | ClC(C(=O)N1[C@H](C(=O)O)CCC1)(C)Cl | C8H11Cl2NO3
